US06184236B2
b) 4-(3-Phenyl-propylamino)-cyclohexanone
A mixture of (1,4-dioxa-spiro[4.5]dec-8-yl)-(3-phenyl-propyl)-amine hydrochloride (1:1) (3.35 g, 10.7 mmol), H2O (25 ml) and trifluoroacetic acid (2.47 ml, 32.2 mmol) was left at r.t for 48 h. NaHCO3 (10%, 100 ml) was added and the solution was extracted with CH2Cl2. Drying of the organic layer (Na2SO4) and evaporation left 4-(3-phenyl-propylamino)-cyclohexanone as a slightly coloured oil (2.4 g, 97%, MS: m/e=232.2 (M+H+)).

reactant | (1,4-dioxa-spiro[4.5]dec-8-yl)-(3-phenyl-propyl)-amine hydrochloride | 10.7 mmol, 3.35 g | Cl.O1CCOC12CCC(CC2)NCCCC2=CC=CC=C2
reactant | trifluoroacetic acid | 32.2 mmol, 2.47 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | H2O | 25 ml | O | H2O
product | 4-(3-Phenyl-propylamino)-cyclohexanone | C1(=CC=CC=C1)CCCNC1CCC(CC1)=O | C15H21NO
